US07456164B2
4-(3-{4-[4-(morpholin-4-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenoxy}propyl)morpholine
O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (200 mg, 0.5 mmol) was added to a solution of 4-[4-(3-Morpholin-4-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carboxylic acid hydrochloride (160 mg, 0.4 mmol), morpholine (54 μL, 0.6 mmol) and Hunig's base (180 μL, 1 mmol) in N,N-dimethylformamide (2 mL). The mixture was stirred at room temperature for 3 hours and then concentrated in vacuo. The residue was partitioned between 2M NaOH solution (20 mL) and DCM (2×20 mL). The organics were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:5:0.5 to 90:10:1, by volume) to provide the title compound (182 mg, 100%) as a pale brown solid. 1H NMR (400 MHz, CDCl3) δ 1.93-2.04 (m, 4H), 2.20 (m, 2H), 2.42-2.55 (m, 6H), 3.22-3.43 (br m, 8H), 3.72 (t, 4H), 3.79 (m, 2H), 3.90 (m, 2H), 4.00 (t, 2H), 6.88 (d, 2H), 7.17 (d, 2H). LRMS APCI+ m/z 419 [MH]+.

reactant | O-(1H-Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.5 mmol, 200 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-[4-(3-Morpholin-4-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carboxylic acid hydrochloride | 0.4 mmol, 160 mg | Cl.N1(CCOCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(=O)O
reactant | morpholine | 0.6 mmol, 54 μL | N1CCOCC1 | C4H9NO
reactant | Hunig's base | 1 mmol, 180 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(3-{4-[4-(morpholin-4-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenoxy}propyl)morpholine | 182 mg, 100% | N1(CCOCC1)C(=O)C1(CCOCC1)C1=CC=C(OCCCN2CCOCC2)C=C1 | C23H34N2O5
